US04533713
Preparation of N,N-Bis(2-glycidoxyethyl)perfluorooctanesulfonamide
Into a 1 L 3-neck flask equipped with an agitator, thermometer, and a reflux condenser was placed 171 g (0.3 mole) of N,N-bis(2-hydroxyethyl)perfluorooctanesulfonamide (prepared from perfluorooctanesulfonamide and ethylenechlorohydrin as described in Example 2 of U.S. Pat. No. 4,289,892) and 277.5 g (3.0 moles) of epichlorohydrin. The reaction mixture was stirred and heated to 65° C. Then 12.2 g (of a total of 53 g, 1.3 moles) of sodium hydroxide was added. The reaction mixture was heated to 90° C. and stirred at that temperature for 4 hours, cooled to about 40° C., and filtered from sodium chloride. The filter cake was then washed with about 50 mL epichlorohydrin. The combined filtrates along with the remaining sodium hydroxide were heated to 90° C. and stirred at that temperature for 4 hours. The reaction mixture was cooled, filtered, and the filtrate concentrated under vacuum at a temperature of 50° to 90° C. to remove excess epichlorohydrin. GC and infrared spectroscopic (IR) analysis of the product indicated the presence of N,N-bis(2-glycidoxyethyl)perfluorooctanesulfonamide in about 90% purity. The impurity was mainly N-(2-hydroxyethyl), N(2-glycidoxyethyl)perfluorooctanesulfonamide.

reactant | N,N-bis(2-hydroxyethyl)perfluorooctanesulfonamide | 0.3 mole, 171 g | OCCN(S(=O)(=O)C(C(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)CCO | C12H10F17NO4S
reactant | perfluorooctanesulfonamide | FC(C(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(S(=O)(=O)N)F | C8H2F17NO2S
reactant | ethylenechlorohydrin | C(CO)Cl | C2H5ClO
reactant | epichlorohydrin | 3.0 moles, 277.5 g | C(Cl)C1CO1 | C3H5ClO
reactant | sodium hydroxide | [OH-].[Na+]
product | N,N-Bis(2-glycidoxyethyl)perfluorooctanesulfonamide | C(C1CO1)OCCN(S(=O)(=O)C(C(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)CCOCC1CO1 | C18H18F17NO6S
